US04116956
To a solution of 1.4 parts of 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine, prepared in Example 1, in 25 parts by volume of tetrahydrofuran is added 0.62 part by volume of benzoyl chloride, and the mixture is stirred at room temperature for 2 hours to complete the reaction. The reaction mixture is neutralized with a saturated aqueous solution of sodium bicarbonate. The resulting white precipitate is separated, washed with water and then with methanol, and dried, whereby 2-(2-benzoylhydrazino)-7-chloro-5-phenyl-3H-1,4-benzodiazepine is yielded as crystals. Recrystallization from a mixture of chloroform and methanol yields white needles melting at 207° C to 208° C (effervescence).

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2-benzoylhydrazino)-7-chloro-5-phenyl-3H-1,4-benzodiazepine | C(C1=CC=CC=C1)(=O)NNC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C22H17ClN4O
